US06512123B2
In an ice bath, 2.4 ml triethylamine was added to a suspension of 2.7 g (17 mmol) O-benzylhydroxylamine hydrochloride in 100 ml dichloromethane. 3.6 g (17 mmol)7-bromo heptanoic acid was added, followed by 5.3 g (21 mmol) bis-(2-oxo-3-oxazolidinyl)-phosphorylchloride Stirring was continued at ambient temperature for 18 h. The solution was extracted twice with 150 ml each of 1M aqueous hydrochloric acid and twice with 150 ml each of 1M aqueous sodium bicarbonate. The organic solvent was removed i. vac. and the residue was purified by column chromatography (silica gel; ethyl acetate: heptane 1:1) to give 1.55 g (30%) of 7-bromo-heptanoic acid benzyloxy-amide as a colorless oil. MS: 314 (M+H+).

reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzylhydroxylamine hydrochloride | 17 mmol, 2.7 g | Cl.C(C1=CC=CC=C1)ON
reactant | 7-bromo heptanoic acid | 17 mmol, 3.6 g | BrCCCCCCC(=O)O | C7H13BrO2
reactant | bis-(2-oxo-3-oxazolidinyl)-phosphorylchloride | 21 mmol, 5.3 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-bromo-heptanoic acid benzyloxy-amide | 1.55 g, 30% | C(C1=CC=CC=C1)ONC(CCCCCCBr)=O | C14H20BrNO2
